Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Phenobarbital / Valium / Haldol
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ y/o male with a past medical history of 
seizure disorder and MR who presents with BRBPR. Patient is 
nonverbal and unable to provide history. Patient's mother 
reports that he has been having maroon stools requiring diaper 
change q30min-1h. She states that he has never had GI bleeding 
like this in the past. Patient has undergone multiple 
colonoscopies in the past but has had poor prep.  
 
In the ED, initial vitals were: T 98.1, HR 109, BP 114/71, RR 
16, 100% RA.  
- Labs were significant for Hb 11.8 --> 11.2 (baseline Hb 
___.  
- GI was consulted and recommended admission for monitoring and 
will discuss colonoscopy. Also recommended obtaining a CTA and 
___ intervention if brisk bleed.  
- The patient was given pantoprazole 40 mg IV x1.  
Vitals prior to transfer were: HR 87, BP 105/69, RR 20, 99% RA.  

Upon arrival to the floor, T 98.3, BP 113/71, HR 92, RR 18, 95% 
RA, 60 kg. Patient was resting in bed, nonverbal and curled up. 
Two loose bowel movements this AM which per report were maroon 
in appearance but none since.  

 
Past Medical History:
Hypertension.  
Hypercholesterolemia.  
Onychomycosis.  
Seizure disorders.  
Seasonal allergies.  
Left and right ulnar fractures.  
Mental Retardation  
Esophagitis  
Chronic constipation  
Iron deficiency Anemia  

 
Social History:
___
Family History:
No history of IBD
 
Physical Exam:
Vitals: T 98.3, BP 113/71, HR 92, RR 18, 95% RA, 60 kg  
General: sleeping but arousable, curled up in bed, nonverbal, 
thumb in mouth  
HEENT: able to track with eyes, sclera anicteric, thumb in 
mouth, dry mucus membranes  
Heart: only able to auscultate in RUSB, RRR, normal S1 and S2, 
no murmurs  
Lungs: poor effort however clear w/o w/r/r  
Abdomen: thin, soft, nontender to palpation, normal bowel sounds 
 
Genitourinary: wearing a diaper, no stool in diaper  
Extremities: no peripheral edema, no cyanosis or clubbing, warm  

Neurological: unable to follow exam, however no gross cranial 
nervice deficits, moving arms/legs spontaneously  

Dishcarge:
Vitals: 97.4 100/64 73 20 97% RA
General: nonverbal 
HEENT: able to track with eyes, sclera anicteric, thumb in 
mouth,   
Heart:  normal S1 and S2, no murmurs  
Lungs: poor effort however clear w/o w/r/r  
Abdomen: nontender to palpation, normal bowel sounds  
Genitourinary: wearing a diaper
Extremities: no peripheral edema, no cyanosis or clubbing, warm  

Neurological: unable to follow exam, however no gross cranial 
nervice deficits, moving arms/legs spontaneously  

 
Pertinent Results:
Admission:

___ 07:25PM   WBC-9.3 RBC-3.56* HGB-11.2* HCT-32.6* MCV-92 
MCH-31.4 MCHC-34.3 RDW-16.1*
___ 07:25PM   PLT COUNT-156
___ 05:02PM   ___ COMMENTS-GREEN TOP
___ 05:02PM   LACTATE-1.6
___ 04:41PM   GLUCOSE-93 UREA N-28* CREAT-1.1 SODIUM-138 
POTASSIUM-4.3 CHLORIDE-101 TOTAL CO2-26 ANION GAP-15
___ 04:41PM   estGFR-Using this
___ 04:41PM   ALT(SGPT)-15 AST(SGOT)-21 ALK PHOS-93 TOT 
BILI-0.3
___ 04:41PM   LIPASE-44
___ 04:41PM   ALBUMIN-4.6
___ 04:41PM   WBC-10.6 RBC-3.80* HGB-11.8* HCT-34.7* MCV-91 
MCH-31.1 MCHC-34.1 RDW-16.0*
___ 04:41PM   NEUTS-64.4 ___ MONOS-8.7 EOS-1.3 
BASOS-0.4
___ 04:41PM   PLT COUNT-187
___ 04:41PM   ___ PTT-32.6 ___

Discharge:

___ 05:30AM BLOOD WBC-5.3 RBC-3.62* Hgb-11.6* Hct-36.6* 
MCV-101*# MCH-32.0 MCHC-31.6 RDW-15.9* Plt ___
___ 05:30AM BLOOD Plt ___
___ 05:30AM BLOOD Glucose-80 UreaN-15 Creat-1.2 Na-145 
K-4.7 Cl-105 HCO3-27 AnGap-18
___ 05:30AM BLOOD Calcium-9.3 Phos-2.9 Mg-2.4
 
Brief Hospital Course:
Mr. ___ is a ___ y/o male with a past medical history of 
seizure disorder and MR who presents with BRBPR

# BRBPR: likely lower GI bleed, possibly diverticular given 
history of chornic constipation; however, it is impossible to 
say the exact etiology.  He remained hemodynamically stable with 
a stable Hct. He has had prior colonoscopy attempts, but without 
good prep and given his Fe Def anemia of unknown etiology, it 
would be prudent to get a good bowel prep and look for an occult 
source of bloos loss. After consulting GI, we attempted such 
with  2 days of prep with MoviPrep, Lactulose, Mag Citrate, 2 
tap water enemas and multiple oral medications; however, we were 
still unable to get a good prep. KUB not concerning for 
obstruction. After dicussing with the family, they elected not 
to continue with another day of prep, but instead to employ 
watchful waiting and bring him back should he have another GI 
bleed. 
We maintained TxS, PIV access, trended his H&H, and monitored 
his vitals. 

He will be discharged with GI and PCP ___.  

TRANSITIONAL ISSUES:
-Monitor CBC at follow up appointment. 
-Adjust bowel regimen as needed for constipation
-Consider outpt colonoscopy 
-BP med held ___ to GI bleed on admission and he remined 110s 
throughout admission, thus ACEi held at discharge. Restart as 
needed per PCP. 

Billing: Greater than 30 minutes were spent coordinating Mr 
___ discharge from the hospital.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ferrous Sulfate 140 mg PO DAILY 
2. Loratadine 10 mg PO DAILY:PRN allergies 
3. Omeprazole 20 mg PO BID 
4. Polyethylene Glycol 17 g PO DAILY 
5. DiphenhydrAMINE 25 mg PO QHS:PRN insomnia 
6. Enalapril Maleate 5 mg PO DAILY 
7. Hydrocortisone Cream 1% 1 Appl TP BID:PRN itching 
8. Ketoconazole 2%  1 Appl TP BID PRN 
9. Senna 8.6 mg PO DAILY:PRN constipation 

 
Discharge Medications:
1. DiphenhydrAMINE 25 mg PO QHS:PRN insomnia 
2. Ferrous Sulfate 140 mg PO DAILY 
3. Hydrocortisone Cream 1% 1 Appl TP BID:PRN itching 
4. Polyethylene Glycol 17 g PO DAILY 
5. Docusate Sodium 200 mg PO BID 
6. Senna 17.2 mg PO BID 
7. Loratadine 10 mg PO DAILY:PRN allergies 
8. Omeprazole 20 mg PO BID 
9. Ketoconazole 2%  1 Appl TP BID PRN 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lower GI Bleed
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

You came to us with bright red bleeding from your bottom. Here 
you were stable and your blood levels were only slightly low, 
which stabilized and began to rise within 24 hours of admission. 
Our GI doctors  saw ___ and decided a colonoscopy would be best, 
however, we were unable to get a good bowel prep. You decided 
that since you had no additional bleeds, that your blood levels 
arestable, and that your vital signs remained stable, a 
colonoscopy is not emergently needed; however, we still do not 
know the reason you had a bleed and one reason could be a polyp 
or a cancer. You will follow up in GI clinic and with your PCP 
for further care. Should this happen again, please come to the 
ER immediately. 

We wish you all the best,
Your ___ Team. 
 
Followup Instructions:
___